US06982348B2
To a solution of 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid (20 g, 103 mmol) in quinoline (36 ml) was added copper (I) sulfate (1 g, 6.3 mmol). While bubbling nitrogen, the mixture was immersed in an oil bath at 230° C. until gas generation ceased. The generated gas was collected and distilled again to give 2-methyl-5-(trifluoromethyl)furan (8.34 g, 54%).

reactant | 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid | 103 mmol, 20 g | CC1=CC(=C(O1)C(F)(F)F)C(=O)O | C7H5F3O3
solvent | quinoline | 36 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (I) sulfate | 6.3 mmol, 1 g | S(=O)(=O)([O-])[O-].[Cu+].[Cu+]
product | 2-methyl-5-(trifluoromethyl)furan | 8.34 g, 54% | CC=1OC(=CC1)C(F)(F)F | C6H5F3O
